US05589489
3-[1-(3,4-Dichlorophenyl)-3-(4-(2-oxoperhydropyrimidine-1-yl)piperidino)propyl]-7-isopropoxy-2-methyl-2,3-dihydroisoindol-1-one hydrochloride
3-(3,4-Dichlorophenyl)-3-(4-isopropoxy-2-methyl-3-oxo-2,3-dihydro-1H-isoindol-1-yl)propionaldehyde (0.15 g) was coupled to 4-(2-oxoperhydropyrimidine-1-yl)piperidine (0.068 g) by a method similar to that described in Example 8. The reaction product was not purified by chromatography but converted to the corresponding hydrochloride salt as described in the Example 8 to afford the title compound (0.08 g); mp 180°-200° C. (d); MS: m/z=573(M+1); NMR: 1.14 (m,6), 1.77 (broad,4), 2.17 (m,2), 2.98 (s,3), 4.32 (m,1), 4.74 (m,1), 6.76-7.02 (m,3), 7.34-7.55 (m,3). Analysis for C30H38Cl2N4O3.1.0 HCl.2.0 H2O: Calculated: C, 55.77; H, 6.71, N, 8.67; Found: C, 55.91; H, 6.45; N, 8.44.

reactant | 3-(3,4-Dichlorophenyl)-3-(4-isopropoxy-2-methyl-3-oxo-2,3-dihydro-1H-isoindol-1-yl)propionaldehyde | 0.15 g | ClC=1C=C(C=CC1Cl)C(CC=O)C1N(C(C2=C(C=CC=C12)OC(C)C)=O)C | C21H21Cl2NO3
reactant | 4-(2-oxoperhydropyrimidine-1-yl)piperidine | 0.068 g | O=C1N(CCCN1)C1CCNCC1 | C9H17N3O
product | 3-[1-(3,4-Dichlorophenyl)-3-(4-(2-oxoperhydropyrimidine-1-yl)piperidino)propyl]-7-isopropoxy-2-methyl-2,3-dihydroisoindol-1-one hydrochloride | 0.08 g | Cl.ClC=1C=C(C=CC1Cl)C(CCN1CCC(CC1)N1C(NCCC1)=O)C1N(C(C2=C(C=CC=C12)OC(C)C)=O)C | InChI=1S/C30H38Cl2N4O3.ClH/c1-19(2)39-26-7-4-6-23-27(26)29(37)34(3)28(23)22(20-8-9-24(31)25(32)18-20)12-17-35-15-10-21(11-16-35)36-14-5-13-33-30(36)38;/h4,6-9,18-19,21-22,28H,5,10-17H2,1-3H3,(H,33,38);1H
